US09216968B2
To a suspension of methyl 2-(methoxymethyl)-6-nitro-1H-benzimidazole-4-carboxylate (Example 11, Step 3) (4.8 g) in MeOH (120 mL), were added lithium hydroxide hydrate (4.56 g) and water (54 mL). The mixture was stirred at room temperature for 16 hours. Under ice-cooling, 1N hydrochloric acid was added slowly to the reaction mixture to adjust the pH to about 2. The precipitate was collected by filtration and dried to obtain 2-(methoxymethyl)-6-nitro-1H-benzimidazole-4-carboxylic acid (4.6 g). To the solution of 2-(methoxymethyl)-6-nitro-1H-benzimidazole-4-carboxylic acid (4.6 g) in DMF (90 mL), HBTU (8.23 g), triethylamine (2.19 g) and 3-chloro-2-methylaniline (3.07 g) were added sequentially, and the solution was stirred for 18 hours. The reaction mixture was poured into saturated aqueous sodium bicarbonate and stirred for 1 hour. The precipitate was collected by filtration and washed sequentially with water and ethyl acetate to obtain N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-6-nitro-1H-benzimidazole-4-carboxamide (7.2 g) as pale yellow powder. To the solution of N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-6-nitro-1H-benzimidazole-4-carboxamide (7.2 g) in MeOH-THF (1:1, 120 mL), were added 1% platinum+0.1% copper-activated carbon (Degussa type CF105 R/W) (1.4 g). The mixture was stirred under hydrogen atmosphere (3 atm) for 4 hours. The catalyst was filtered off, and the mother liquid was concentrated. The residual solid was washed with ethyl acetate to obtain 6-amino-N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-1H-benzimidazole-4-carboxamide (5.1 g) as pale yellow powder.

reactant | N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-6-nitro-1H-benzimidazole-4-carboxamide | 7.2 g | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)COC)[N+](=O)[O-])C | C17H15ClN4O4
solvent | MeOH THF | 120 mL | CO.C1CCOC1
catalyst | platinum | 1.4 g | [Pt] | Pt
product | 6-amino-N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-1H-benzimidazole-4-carboxamide | 5.1 g | NC=1C=C(C2=C(NC(=N2)COC)C1)C(=O)NC1=C(C(=CC=C1)Cl)C | C17H17ClN4O2
